US08912365B2
A stirred autoclave was charged, at room temperature, with 65.60 g (712 mmol) of glycerol, 1.58 g (17.9 mmol) of butyric acid, 0.16 g (10 wt %) of AMBERLYST® (a polymer based catalyst) 35 resin and 0.39 g (1.0 mol %) of Pd/C at 5%. The autoclave was then pressurized at 50 bar of dihydrogen gas H2, and then was heated at 120° C. for 16 h, under vigorous stirring. After 16 h of reaction, the reaction mixture was cooled down to room temperature. The catalyst was filtered through a MILLIPORE® filter (a membrane filter) (0.45 μm) and was rinsed with absolute ethanol. The solvents were evaporated and the organic products were extracted from the glycerol phase using CH2Cl2 (3×50 ml). The organic phases were combined and then was washed with water (2×30 ml) and CH2Cl2 was evaporated under reduced pressure. The crude reaction product was purified on a flash silica column (eluent: cyclohexane/ethyl acetate=4:1˜1:1). 1-O-butyl-glycerol ether was obtained with an isolated yield of 68%.

reactant | glycerol | 712 mmol, 65.60 g | OCC(O)CO | C3H8O3
reactant | butyric acid | 17.9 mmol, 1.58 g | C(CCC)(=O)O | C4H8O2
catalyst | Pd/C | 0.39 g | [Pd] | Pd
product | 1-O-butyl-glycerol ether | yield of 68% | C(CCC)OCC(O)CO.CCOCC | InChI=1S/C7H16O3.C4H10O/c1-2-3-4-10-6-7(9)5-8;1-3-5-4-2/h7-9H,2-6H2,1H3;3-4H2,1-2H3
